US09227986B2
n-BuLi (2.5M in hexane) (10 mL, 25 mmol) was added dropwise to a solution of 4,5-dibromo-4′,5′-dimethyl-2,2′-bithiophene (3.37 g, 9.57 mmol) in 100 mL of THF at −78° C. After 90 minutes upon addition, excess iodomethane (3.6 g, 25 mmol) was added dropwise by syringe, and the mixture was stirred for 30 min, then warmed to RT and stirred for another 3 hours. Solvents were evaporated and the residue was poured into water. The mixture was extracted with hexanes, dried over MgSO4, and the solvent was evaporated to give off-yellow solid (2.71 g, 9.43 mmol, 99% yield) of 4-bromo-4′,5,5′-trimethyl-2,2′-bithiophene. 1H NMR (600 MHz, CDCl3) δ 6.85 (s, 1H), 6.82-6.76 (m, 1H), 2.37 (s, 3H), 2.33 (s, 3H), 2.11 (s, 3H)

reactant | n-BuLi | 25 mmol, 2.5M, 10 mL | [Li]CCCC
reactant | 4,5-dibromo-4′,5′-dimethyl-2,2′-bithiophene | 9.57 mmol, 3.37 g | BrC=1C=C(SC1Br)C=1SC(=C(C1)C)C | C10H8Br2S2
reactant | iodomethane | 25 mmol, 3.6 g | IC | CH3I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-bromo-4′,5,5′-trimethyl-2,2′-bithiophene | 9.43 mmol, 2.71 g, 99% yield | BrC=1C=C(SC1C)C=1SC(=C(C1)C)C | C11H11BrS2
